US09284323B2
Preparation of 2-methylhexan-2-yl acetate:
2-Methylhexan-2-ol (30.0 g, 0.258 mol) was treated with acetic anhydride (36.6 mL, 0.387 mol). Pyridine (30.0 mL, excess) was added dropwise over a 3 min period at 23° C. Then 4-(N,N-dimethylamino)-pyridine (1.27 g, 10.0 mmol) was added. The reaction was heated to 70° C. for 16 h. The reaction was cooled to 23° C. and poured onto 300 mL of crushed ice. After 15 min of stirring, most of the ice had melted. Solid NaHCO3 was added in portions (bubbling) until the pH was 9. The system was extracted with two portions of diethyl ether (100 mL, then 50 mL). The combined extracts were washed with 1.0 M aq. CuSO4 monohydrate (4×50 mL), dried over MgSO4, and filtered. The filtrate was distilled at ambient pressure at a bath temperature of 80-100° C. to remove most of the diethyl ether. The resulting oil left in the pot was fractionally distilled through a Snyder column with 3 chambers under reduced pressure (6-8 mmHg). A small-volume forerun was collected and discarded (bp<45° C.). The main fraction contained 2-methylhexan-2-yl acetate (bp 45-48° C.). 1H NMR (400 MHz, CDCl3) δ 1.94 (s, 3H), 1.74-1.68 (m, 2H), 1.40 (s, 6H), 1.33-1.22 (m, 4H), 0.88 (t, J=6.8 Hz, 3H).

reactant | 2-Methylhexan-2-ol | 0.258 mol, 30.0 g | CC(C)(CCCC)O | C7H16O
reactant | acetic anhydride | 0.387 mol, 36.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-(N,N-dimethylamino)-pyridine | 10.0 mmol, 1.27 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | Pyridine | 30.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-methylhexan-2-yl acetate | C(C)(=O)OC(C)(CCCC)C | C9H18O2
